.subckt SPDT 1 2 3 POS=0
  * .param doesnt work in if..else
  .if (POS >= 1)
    r1 1 2 1G
    r2 2 3 0.01
  .else
    r1 1 2 0.01
    r2 2 3 1G
  .endif
.ends